US07115633B2
(±)-1-Methyl-7-[[4-(2,6-dichlorophenyl)piperidin-1-yl]carbonyl]6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one
1 g (4.58 mmol) of (±)-1-methyl-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-7-carboxylic acid was dissolved in 40 mL of dry CH2Cl2 and 1.2 mL (13.74 mmol) of oxalyl chloride were added dropwise at 0° C. under a nitrogen atmosphere. The solution was allowed to warm to room temperature overnight, then the solvent and the excess oxalyl chloride were removed in vacuo. The resulting acyl chloride was dissolved in 20 mL of dry CH2Cl2 and added to a solution of 1.22 g (4.58 mmol) of 4-(2,6-dichloro-phenyl)-piperidine hydrochloride and 1.91 mL (13.74 mmol) of triethylamine in 30 mL of dry CH2Cl2 at 0° C. The reaction mire was allowed to warm to room temperature overnight, water was added, the organic phase was collected, washed with 1 N HCl solution and dried. The solvent was removed in vacuo and the resulting crude product was purified by flash chromatography, eluting with a mixture Et2O/Hexane 8:2 respectively, yielding 1.4 g of the title compound.

reactant | (±)-1-methyl-5-oxo-6,7,8,9-tetrahydro-5H-benzocycloheptene-7-carboxylic acid | 4.58 mmol, 1 g | CC1=CC=CC2=C1CCC(CC2=O)C(=O)O | C13H14O3
reactant | oxalyl chloride | 13.74 mmol, 1.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(2,6-dichloro-phenyl)-piperidine hydrochloride | 4.58 mmol, 1.22 g | Cl.ClC1=C(C(=CC=C1)Cl)C1CCNCC1
reactant | triethylamine | 13.74 mmol, 1.91 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (±)-1-Methyl-7-[[4-(2,6-dichlorophenyl)piperidin-1-yl]carbonyl]6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 1.4 g | CC1=CC=CC2=C1CCC(CC2=O)C(=O)N2CCC(CC2)C2=C(C=CC=C2Cl)Cl | C24H25Cl2NO2
